US04288435
(1) Preparation of N-(3-Pyridyl)-2-bromoacetamide
To a mixture of 3-aminopyridine (11 g.) and triethylamine (13.0 g.) in dry ethyl acetate (300 ml.) was added a solution of bromoacetyl bromide (26.0 g.) in dry ethyl acetate (26 ml.) over a period of 30 minutes with stirring at 0° to 5° C. and stirring was continued for an additional 2 hours at the same temperature. To the reaction mixture was added a chilled aqueous solution of sodium bicarbonate. After shaking well, the ethyl acetate layer was separated, washed successively with water, an aqueous solution of sodium bicarbonate and water, dried and then concentrated. There was obrained concentrate (200 ml.) containing the title compound. Thus obtained concentrate was used directly in the next step reaction without further purification.

reactant | 3-aminopyridine | 11 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 13.0 g | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 26.0 g | BrCC(=O)Br | C2H2Br2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 26 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-Pyridyl)-2-bromoacetamide | N1=CC(=CC=C1)NC(CBr)=O | C7H7BrN2O
